US04804658
A stirred mixture of 3,4-diaminopyridine (10.0 g, 0.092 mol) and formic acid (20 ml) was heated under reflux for 2.5 hours. The resulting mixture was cooled and the formic acid was evaporated off under reduced pressure to a yield a residue. The residue was dissolved in ethanol (300 ml) at 80° C. and the resulting solution was treated with calcuim carbonate (10 g) and neutralized by stirring under reflux for 1 hour. The hot mixture was filtered and the residue was washed with hot ethanol (3×300 ml). The filtrate and washings were combined and the ethanol was evaporated off under reduced pressure to yield 3,4-diformylaminopyridine as a colorless solid. The 3,4-diformylaminopyridine was heated at 200°-220° C. and 0.5 mm.Hg pressure in a Kugelrohr bulb-to-bulb distillation apparatus to yield a crude product as a distillate which solidified on cooling. The crude product was recrystallized from ethyl acetate to yield imidazo[4,5-c]pyridine as a colorless crystalline solid, having a melting point of 174°- 176° C. and the following physical characteristics:

reactant | 3,4-diaminopyridine | 0.092 mol, 10.0 g | NC=1C=NC=CC1N | C5H7N3
reactant | formic acid | 20 ml | C(=O)O | CH2O2
reactant | carbonate | 10 g | C([O-])([O-])=O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3,4-diformylaminopyridine | C(=O)NC=1C=NC=CC1NC=O | C7H7N3O2
